US05352701
3-[2-[6-(4-Methoxyphenyl)-(5E)-5-hexenyloxy]-phenyl]-propionic acid
A solution of 100 mg of 3-[2-[6-(4-methoxyphenyl)-(5E)5-hexenyloxy]-phenyl]-propionic acid methyl ester in 2 ml of methanol and 2 ml of in potassium hydroxide solution is stirred for 2 1/2 hours at room temperature. The reaction mixture is acidified to pH 1 with 2 n hydrochloric acid and shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. 92 mg of the title compound is obtained as oil.

reactant | 3-[2-[6-(4-methoxyphenyl)-(5E)5-hexenyloxy]-phenyl]-propionic acid methyl ester | 100 mg | COC(CCC1=C(C=CC=C1)OCCCC\C=C\C1=CC=C(C=C1)OC)=O | C23H28O4
reactant | hydrochloric acid | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
solvent | potassium hydroxide | [OH-].[K+]
product | 3-[2-[6-(4-Methoxyphenyl)-(5E)-5-hexenyloxy]-phenyl]-propionic acid | 92 mg | COC1=CC=C(C=C1)/C=C/CCCCOC1=C(C=CC=C1)CCC(=O)O | C22H26O4
